US08748418B2
N—[(S)-1-(5-Bromo-2-fluoro-phenyl)-3-hydroxy-1,3-dimethyl-butyl]-2-chloro-acetamide
To a vigorously stirred mixture of (S)-4-amino-4-(5-bromo-2-fluoro-phenyl)-2-methyl-pentan-2-ol (intermediate A14A) (2.22 g; 7.7 mmol) in sat. aqueous NaHCO3-sol. (25 ml) and dichloromethane (DCM) (35 ml) at 0° C. was added chloroacetyl chloride (672 μl, 8.5 mmol) and the mixture was stirred at 0° C. for 30 min Diluted with water, brine and ethyl acetate (EtOAc), separated phases, dried organic layer over sodium sulphate. Removal of the solvent in vacuum left the crude product as a colourless oil (3.11 g, 111%), which was used in the next step without further purification. MS (ISP): m/z=366.0 [(M+H)+], 368.0 [(M+2+H)+] and 370.0 [(M+4+H)+].

reactant | (S)-4-amino-4-(5-bromo-2-fluoro-phenyl)-2-methyl-pentan-2-ol | 7.7 mmol, 2.22 g | N[C@](CC(C)(O)C)(C)C1=C(C=CC(=C1)Br)F | C12H17BrFNO
reactant | dichloromethane | 35 ml | ClCCl | CH2Cl2
reactant | chloroacetyl chloride | 8.5 mmol, 672 μl | ClCC(=O)Cl | C2H2Cl2O
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | O | H2O
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N—[(S)-1-(5-Bromo-2-fluoro-phenyl)-3-hydroxy-1,3-dimethyl-butyl]-2-chloro-acetamide | BrC=1C=CC(=C(C1)[C@@](CC(C)(C)O)(C)NC(CCl)=O)F | C14H18BrClFNO2
